US04197296
11α-Amino-2β-ethoxy-3α-hydroxy-5α-androstan-17-one
Sodium (7.5 g) was added portionwise to a refluxing solution of 2β-ethoxy-17,17-ethylenedioxy-3α-hydroxy-5α-androstan-11-one 11-oxime (5.7 g) in propanol (400 ml) under nitrogen. Most of the solvent was evaporated in vacuo, water was added and the precipitated material was extracted into ethyl acetate. The washed extract was evaporated in vacuo and the residue was partitioned between ether and 2 N-hydrochloric acid. The aqueous layer was basified, extracted into ethyl acetate, washed, dried (Na2SO4) and evaporated to afford a froth which crystallized from ether to give the title compound m.p. 144°-148°, [α]D +61.5°.

reactant | Sodium | 7.5 g | [Na] | Na
reactant | 2β-ethoxy-17,17-ethylenedioxy-3α-hydroxy-5α-androstan-11-one 11-oxime | 5.7 g | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CCC5([C@@]4(C)CC([C@@H]3[C@]2(C1)C)=NO)OCCO5)O | C23H37NO5
solvent | propanol | 400 ml | C(CC)O | C3H8O
product | 11α-Amino-2β-ethoxy-3α-hydroxy-5α-androstan-17-one | N[C@H]1[C@@H]2[C@]3(C[C@@H]([C@H](C[C@@H]3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)O)OCC)C | C21H35NO3
